US08420661B2
(5.8 g, 18.6 mmol) (RS)-3-Dibenzylamino-2-hydroxy-propionic acid ethyl ester (CAS 93715-75-4) was dissolved in DMF (40 ml) and tert-butylchlorodiphenylsilane (6.76 ml, 26 mmol, 1.4 equiv.), Imidazole (1.9 g, 27.9 mmol, 1.5 equiv.) and DMAP (227 mg, 1.9 mmol, 0.1 equiv.) were added at room temperature. The mixture was stirred for 3 hours at 80° C. The reaction mixture was evaporated and extracted with saturated NaHCO3 solution and two times with EtOAc. The organic layers were extracted with brine, dried over Na2SO4 and evaporated to dryness. The crude product was purified by flash chromatography on silica gel column and eluting with an ethyl acetate:heptane gradient 0:100 to 40:60. The desired (RS)-2-(tert-butyl-diphenyl-silanyloxy)-3-dibenzylamino-propionic acid ethyl ester (8.1 g, 79% yield) was obtained as a colorless oil, MS: m/e=552.5 (M+H+).

reactant | (RS)-3-Dibenzylamino-2-hydroxy-propionic acid ethyl ester | 18.6 mmol, 5.8 g | C(C)OC(C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C19H23NO3
reactant | tert-butylchlorodiphenylsilane | 26 mmol, 6.76 ml, 1.4 equiv. | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | Imidazole | 27.9 mmol, 1.9 g, 1.5 equiv. | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.9 mmol, 227 mg, 0.1 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
product | (RS)-2-(tert-butyl-diphenyl-silanyloxy)-3-dibenzylamino-propionic acid ethyl ester | 8.1 g, 79% yield | C(C)OC(C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C35H41NO3Si
